US08466289B2
Synthesis of Intermediate 3-(1,3-bis(benzyloxy)propan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide (I-15q)
Using the same reaction conditions and procedure as described for the preparation of Example 7A, 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (I-7f: 0.22 g, 0.539 mmol) was reacted with 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonyl chloride (0.21 g, 0.539 mmol) in dry pyridine (2 mL) to afford the crude product. Purification by column chromatography on silica gel (80% ethyl acetate in hexane) afforded 0.3 g of the product (71% yield). LCMS: 80%, m/z=773 (M+1)

reactant | 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.539 mmol, 0.22 g | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C14H13FIN3O2
reactant | 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonyl chloride | 0.539 mmol, 0.21 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)Cl | C21H25ClO4S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1,3-bis(benzyloxy)propan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide | 0.3 g, 71% yield | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C35H37FIN3O6S
